US07612075B2
B. 1-(4-Azidoquinolin-7-ylmethyl)-4-(6-chlorobenzo[b]thiophen-2-sulfonyl)-piperazin-2-one.
1-(4-Chloroquinolin-7-ylmethyl)-4-(6-chlorobenzo[b]thiophen-2-sulfonyl)-piperazin-2-one (0.52 g, 1.03 mmol) is dissolved in DMF (15 mL), treated with sodium azide (0.52 g, 8.0 mmol), tetrabutyl ammonium chloride (0.1 g, 0.36 mmol) and heated to 65° C. overnight. The reaction mixture is cooled, poured into water and extracted with ethyl acetate. The organic layer is washed with water, dried (sodium sulfate) and concentrated to give the title compound (0.5 g, 1.04 mmol). 1H NMR (CD3OD, 300 MHz) δ9.0 (d, 1H), 8.2 (d, 1H), 8.0 (s, 1H), 7.9 (d, 2H), 7.8 (d, 1H), 7.6 (d, 1H), 7.5 (d, 1H), 6.9 (s, 1H), 4.85 (s, 2H), 4.0 (s, 2H), 3.5-3.7 (m, 4H).

reactant | 1-(4-Chloroquinolin-7-ylmethyl)-4-(6-chlorobenzo[b]thiophen-2-sulfonyl)-piperazin-2-one | 1.03 mmol, 0.52 g | ClC1=CC=NC2=CC(=CC=C12)CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O | C22H17Cl2N3O3S2
reactant | sodium azide | 8.0 mmol, 0.52 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutyl ammonium chloride | 0.36 mmol, 0.1 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(4-Azidoquinolin-7-ylmethyl)-4-(6-chlorobenzo[b]thiophen-2-sulfonyl)-piperazin-2-one | 1.04 mmol, 0.5 g | N(=[N+]=[N-])C1=CC=NC2=CC(=CC=C12)CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O | C22H17ClN6O3S2
